US03995056
38 ml of hydrochloric acid, 23 g of activated carbon and 12 ml of a solution of 20% palladium chloride in water were added to a solution of 114.7 g of 2-methyl-3-nitro-4'-fluorobenzophenone in 1 liter of ethanol and then a current of hydrogen was passed therethrough for 3 hours. The reaction mixture was filtered and the filter was rinsed with ethanol. The filtrate was concentrated until crystallization began and was iced and then vacuum filtered. The precipitate was empasted with ethanol and dried under reduced pressure to obtain 59.5 g of 2-methyl-3-amino-4'-fluorobenzophenone in the form of white crystals melting at 170° C. Evaporation of the mother liquor and treatment with isopropyl ether gave another 50.5 g of product for a total of 110 g. For analysis, a sample of the product was crystallized from an aqueous solution of 5% hydrochloric acid and melted at 170° C.

reactant | hydrochloric acid | 38 ml | Cl | ClH
reactant | 2-methyl-3-nitro-4'-fluorobenzophenone | 114.7 g | CC1=C(C(=O)C2=CC=C(C=C2)F)C=CC=C1[N+](=O)[O-] | C14H10FNO3
reactant | hydrogen | [H][H] | H2
solvent | water | O | H2O
solvent | ethanol | 1 liter | C(C)O | C2H6O
catalyst | palladium chloride | [Pd](Cl)Cl
product | 2-methyl-3-amino-4'-fluorobenzophenone | 59.5 g | CC1=C(C(=O)C2=CC=C(C=C2)F)C=CC=C1N | C14H12FNO
